### PR TITLE
feat: add Erdos 681, 972

### LINKED ISSUE #875: Erdős Problem 681
### What is the conjecture
    
https://www.erdosproblems.com/681

  Is it true that for all large $n$ there exists $k$ such that $n+k$ is composite and
$$p(n+k)>k^2,$$
where $p(m)$ is the least prime factor of $m$?
  

Status:  open

### LINKED ISSUE #1047: Erdős Problem 972
### What is the conjecture

https://www.erdosproblems.com/972

  Let $\alpha>1$ be irrational. Are there infinitely many primes $p$ such that $\lfloor p\alpha\rfloor$ is also prime?

Status:  open

As "good first issue" it would be ok to only do the main statement and leave the rest as TODO.

### PR DESCRIPTION
**Pull request by Zelin-Wu**
Add two files formalizing the statement of Erdos problems 681 and 972

fixes #875 and fixes #1047

### CODE REVIEW

File: FormalConjectures/ErdosProblems/681.lean [hunk 1]
```diff
@@ -0,0 +1,40 @@
...
+
+*Reference:* [erdosproblems.com/681](https://www.erdosproblems.com/681)
+-/
+
+namespace Erdos681
+
+def IsLPF (p m : ℕ) : Prop := Prime p ∧ p ∣ m ∧ ∀ q, q ∣ m → p < q
+
+/--
+Is it true that for all large $n$ there exists $k$
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean:32]:
```suggestion
/--
**Erdős 681**
Is it true that for all large $n$ there exists $k$
```

File: FormalConjectures/ErdosProblems/681.lean [hunk 2]
```diff
@@ -0,0 +1,40 @@
...
+such that $n + k$ is composite and $p(n+k) > k^2$,
+where $p(m)$ is the least prime factor of $m$ ?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_681 : (∃ N, ∀ n > N, ∃ k, ¬ Prime (n + k) ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2)
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
theorem erdos_681 : (∃ N, ∀ n > N, ∃ k, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2)
```
We have `Nat.Composite` in formal conjectures :)

File: FormalConjectures/ErdosProblems/972.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+*Reference:* [erdosproblems.com/972](https://www.erdosproblems.com/972)
+-/
+
+namespace Erdos972
+
+/--
+The set of primes `p` such that `floor (α * p)` is also prime.
+-/
+def bothPrimes (α : ℝ) : Set ℕ :=
+{p : ℕ | Nat.Prime p ∧ Nat.Prime ((Int.floor (α * p)).toNat)}
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
  {p : ℕ | Nat.Prime p ∧ Nat.Prime ⌊ (α * p) ⌋₊}
```
We have notation for this for the natural number floor.

File: FormalConjectures/ErdosProblems/972.lean [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+/-!
+# Erdős Problem 972
+
+*Reference:* [erdosproblems.com/972](https://www.erdosproblems.com/972)
+-/
+
+namespace Erdos972
+
+/--
+The set of primes `p` such that `floor (α * p)` is also prime.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
The set of primes `p` such that `Nat.floor (α * p)` is also prime.
```
Clarifying here that you are taking the natural number floor (which is `0` if the number is negative).

File: FormalConjectures/ErdosProblems/972.lean [hunk 5]
```diff
@@ -0,0 +1,41 @@
...
+-/
+def bothPrimes (α : ℝ) : Set ℕ :=
+{p : ℕ | Nat.Prime p ∧ Nat.Prime ((Int.floor (α * p)).toNat)}
+
+/--
+Let $\alpha > 1$ be irrational. Are there infinitely many primes $p$
+such that $\lfloor p\alpha \rfloor$ is also prime?
+-/
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/972.lean [hunk 6]
```diff
@@ -0,0 +1,41 @@
...
+@[category research open, AMS 11]
+theorem erdos_972 (α : ℝ) : 1 < α → Irrational α → (bothPrimes α).Infinite ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
theorem erdos_972 : (∀ α > 1, Irrational α → (bothPrimes α).Infinite) ↔ answer(sorry) := by
```
The parenthesis here is important for the `↔ answer(sorry)` (and its important that `α` is quantified over inside this parenthesis.

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! Here are some initial comments :)

File: FormalConjectures/ErdosProblems/972.lean [hunk 7]
```diff
@@ -0,0 +1,40 @@
...
+
+*Reference:* [erdosproblems.com/972](https://www.erdosproblems.com/972)
+-/
+
+namespace Erdos972
+
+/--
+The set of primes `p` such that `Nat.floor (α * p)` is also prime.
+-/
+def bothPrimes (α : ℝ) : Set ℕ :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
def primeSet (α : ℝ) : Set ℕ :=
```
I think this name is a bit better.

File: FormalConjectures/ErdosProblems/972.lean [hunk 8]
```diff
@@ -0,0 +1,40 @@
...
+  {p : ℕ | Nat.Prime p ∧ Nat.Prime ⌊ (α * p) ⌋₊}
+
+/--
+Let $\alpha > 1$ be irrational. Are there infinitely many primes $p$
+such that $\lfloor p\alpha \rfloor$ is also prime?
+-/
+@[category research open, AMS 11]
+theorem erdos_972 : (∀ α > 1, Irrational α → (bothPrimes α).Infinite) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean]:
```suggestion
theorem erdos_972 : (∀ α > 1, Irrational α → (primeSet α).Infinite) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/681.lean [hunk 9]
```diff
@@ -0,0 +1,41 @@
...
+
+def IsLPF (p m : ℕ) : Prop := Prime p ∧ p ∣ m ∧ ∀ q, q ∣ m → p < q
+
+/--
+**Erdős 681**
+Is it true that for all large $n$ there exists $k$
+such that $n + k$ is composite and $p(n+k) > k^2$,
+where $p(m)$ is the least prime factor of $m$ ?
+-/
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
**Erdős problem 681.**
Is it true that for all large $n$ there exists $k$
such that $n + k$ is composite and $p(n+k) > k^2$,
where $p(m)$ is the least prime factor of $m$ ?
-/
```

File: FormalConjectures/ErdosProblems/681.lean [hunk 10]
```diff
@@ -0,0 +1,41 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 681
+
+*Reference:* [erdosproblems.com/681](https://www.erdosproblems.com/681)
+-/
+
+namespace Erdos681
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean:26]:
```suggestion

/-- `IsLPF p m` says that `p` is the least prime factor of `m`. -/
```

File: FormalConjectures/ErdosProblems/681.lean [hunk 11]
```diff
@@ -0,0 +1,41 @@
...
+/--
+**Erdős 681**
+Is it true that for all large $n$ there exists $k$
+such that $n + k$ is composite and $p(n+k) > k^2$,
+where $p(m)$ is the least prime factor of $m$ ?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_681 : (∃ N, ∀ n > N, ∃ k, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2)
+    ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
theorem erdos_681 :
    (∃ N, ∀ n > N, ∃ k, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2) ↔
    answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/972.lean [hunk 12]
```diff
@@ -0,0 +1,40 @@
...
+namespace Erdos972
+
+/--
+The set of primes `p` such that `Nat.floor (α * p)` is also prime.
+-/
+def bothPrimes (α : ℝ) : Set ℕ :=
+  {p : ℕ | Nat.Prime p ∧ Nat.Prime ⌊ (α * p) ⌋₊}
+
+/--
+Let $\alpha > 1$ be irrational. Are there infinitely many primes $p$
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/972.lean:34]:
```suggestion
/--
**Erdős problem 972.**
Let $\alpha > 1$ be irrational. Are there infinitely many primes $p$
```

**Review by callesonne — APPROVED** [review]
Thanks! Only minor formatting comments now, looks good to me! :)

File: FormalConjectures/ErdosProblems/681.lean [hunk 13]
```diff
@@ -0,0 +1,42 @@
...
+/-!
+# Erdős Problem 681
+
+*Reference:* [erdosproblems.com/681](https://www.erdosproblems.com/681)
+-/
+
+namespace Erdos681
+
+/-- `IsLPF p m` says that `p` is the least prime factor of `m`. -/
+def IsLPF (p m : ℕ) : Prop := Prime p ∧ p ∣ m ∧ ∀ q, q ∣ m → p < q
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
def IsLPF (p m : ℕ) : Prop := p.Prime ∧ p ∣ m ∧ ∀ q, q.Prime ∧ q ∣ m → p ≤ q
```
Actually, just realized there are two errors here!

File: FormalConjectures/ErdosProblems/681.lean [hunk 14]
```diff
@@ -0,0 +1,42 @@
...
+
+/--
+**Erdős problem 681.**
+Is it true that for all large $n$ there exists $k$
+such that $n + k$ is composite and $p(n+k) > k^2$,
+where $p(m)$ is the least prime factor of $m$ ?
+-/
+@[category research open, AMS 11]
+theorem erdos_681 :
+    (∃ N, ∀ n > N, ∃ k, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2) ↔
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/681.lean]:
```suggestion
    (∃ N, ∀ n > N, ∃ k > 0, (n + k).Composite ∧ ∀ p, IsLPF p (n + k) → p > k ^ 2) ↔
```
